US04948794
A solution of 5.0 g (31 mmol) 2,5-difluoronitrobenzene, 3,8 ml (31 mmol) cyclohexylamine and 4.4 ml (31 mmol) triethylamine in 50 ml dimethylformamide was stirred at 80° C. for 2 h. After cooling to 25° C. 100 ml water was added. The precipitate was filtered off and washed with water to give 6.1 g (82%) N-cyclohexyl-4-fluoro-2-nitroaniline. M.p. 93.0° C.

reactant | 2,5-difluoronitrobenzene | 31 mmol, 5.0 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | cyclohexylamine | 31 mmol, 3,8 ml | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 31 mmol, 4.4 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-cyclohexyl-4-fluoro-2-nitroaniline | 6.1 g, 82% | C1(CCCCC1)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C12H15FN2O2
